US08466290B2
Zinc cyanide (0.3394 g, 2.89 mmol) and tetrakis(triphenylphosphine)palladium (0.1647 g, 0.143 mmol) were added to a dimethylformamide (14.0 mL) solution of 6-bromo-2-phenyl-4-quinolinecarboxylic acid methyl ester (0.9749 g, 2.85 mmol), and the mixture was heated with stirring at 150° C. for 10 minutes with microwave irradiation. To the reaction solution, water and a saturated aqueous solution of sodium chloride were added. The mixture was subjected to extraction with ethyl acetate and dried over anhydrous sodium sulfate, and then, the solvent was distilled off. The obtained residue was purified by silica gel column chromatography, and the solvent was distilled off to obtain 6-cyano-2-phenyl-4-quinolinecarboxylic acid methyl ester (0.6614 g, 2.29 mmol) as a pale yellow powder.

reactant | dimethylformamide | 14.0 mL | CN(C=O)C | C3H7NO
reactant | 6-bromo-2-phenyl-4-quinolinecarboxylic acid methyl ester | 2.85 mmol, 0.9749 g | COC(=O)C1=CC(=NC2=CC=C(C=C12)Br)C1=CC=CC=C1 | C17H12BrNO2
reactant | sodium chloride | [Cl-].[Na+]
catalyst | Zinc cyanide | 2.89 mmol, 0.3394 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.143 mmol, 0.1647 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 6-cyano-2-phenyl-4-quinolinecarboxylic acid methyl ester | 2.29 mmol, 0.6614 g | COC(=O)C1=CC(=NC2=CC=C(C=C12)C#N)C1=CC=CC=C1 | C18H12N2O2
